US05241064
To a solution of ethyl 2-[1-(t-butyldimethylsilyloxy)ethyl]acrylate (5 g) in methanol (50 ml) was added 4-methoxybenzylamine (2.65 g) at room temperature. After stirring for 2 days, the solvent was removed from the reaction mixture. The residue was column-chromatographed on silica gel in a usual manner (eluent : a mixture of hexane and ethyl acetate, 2:1 to 1:1) to give ethyl (2S*,3R*)-3-(t-butyldimethylsilyloxy)-2-(4-methoxybenzylaminomethyl)butanoate (6.435 g).

reactant | ethyl 2-[1-(t-butyldimethylsilyloxy)ethyl]acrylate | 5 g | [Si](C)(C)(C(C)(C)C)OC(C)C(C(=O)OCC)=C | C13H26O3Si
reactant | 4-methoxybenzylamine | 2.65 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | methanol | 50 ml | CO | CH4O
product | ethyl (2S*,3R*)-3-(t-butyldimethylsilyloxy)-2-(4-methoxybenzylaminomethyl)butanoate | 6.435 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H](C(=O)OCC)CNCC1=CC=C(C=C1)OC)C | C21H37NO4Si
